US04906643
To a stirred mixture of 4.28 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide, 1.21 parts of N,N-diethylethanamine and 150 parts of trichloromethane was added a solution of 1.5 parts of 2-chloropyrimidine in 75 parts of trichloromethane. The whole was stirred and refluxed for 80 hours. After cooling, the reaction mixture was poured into a saturated sodium carbonate solution. The product was extracted with trichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.52 parts (29.2%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(2-pyrimidinylamino)ethyl]-4-piperidinyl]benzamide monohydrate; mp. 123.5° C. (compound 46).

reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(2-pyrimidinylamino)ethyl]-4-piperidinyl]benzamide monohydrate | 29.2% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC2=NC=CC=N2)OC)C=C1Cl)OC | InChI=1S/C20H27ClN6O3.H2O/c1-29-17-11-15(22)14(21)10-13(17)19(28)26-16-4-8-27(12-18(16)30-2)9-7-25-20-23-5-3-6-24-20;/h3,5-6,10-11,16,18H,4,7-9,12,22H2,1-2H3,(H,26,28)(H,23,24,25);1H2/t16-,18+;/m0./s1
